US07662972B2
Step 3: Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-nitrobenzoic acid ethyl ester
In a solution of 2.0 g of 3-(4-bromo-3-nitrophenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole in 30 ml of ethanol in an autoclave, 0.40 g of sodium acetate, 88.0 mg of 1,1′-bis(diphenylphosphino) ferrocene and 18.0 mg of palladium (II) acetate were added, and stirred under 0.9 MPa carbon monoxide atmosphere at 100° C. for 3 hours. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, and the solvent was distilled off under reduced pressure, and the residue was dissolved in 100 ml of ethyl acetate, washed with water, dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residual solid was subjected to purification with medium-pressure preparative liquid chromatography (Yamazen Corporation, medium pressure preparative system; YFLC-Wprep) that was eluted with ethyl acetate-hexane (1:2 to 1:4 gradient), and 0.66 g of the aimed product was obtained as pale yellow crystal.

reactant | 3-(4-bromo-3-nitrophenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 2.0 g | BrC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C16H8BrCl2F3N2O3
reactant | sodium acetate | 0.40 g | C(C)(=O)[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 88.0 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium (II) acetate | 18.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-nitrobenzoic acid ethyl ester | 0.66 g | C(C)OC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)[N+](=O)[O-])=O | C19H13Cl2F3N2O5
